US07790709B2
Preparation of (5-Fluoro-3-methyl-benzo[b]thiophen-2-ylmethyl)methylamine
To a solution of 5-fluoro-3-methyl-benzo[b]thiophene (4.83 g, 29.1 mmol) in THF (50 mL) at −30° C. under N2 was added n-butyllithium (20.0 mL of a 1.6 M solution in hexanes, 32.0 mmol) dropwise. The resulting orange solution was stirred for 1 h and then DMF (3.4 mL, 43.7 mmol) was added in one portion. The solution was warmed slowly to room temperature and stirred overnight. Saturated aqueous NH4Cl was added and the mixture was extracted with ethyl acetate (3×200 mL). The combined organics were washed with water (100 mL) and brine (100 mL), dried over Na2SO4, filtered and concentrated under reduced pressure to give the title compound (5.55 g, 97%) as a yellow solid: 1H NMR (300 MHz, CDCl3) δ 10.32 (s, 1H), 7.80 (dd, J=9.0, 4.8 Hz, 1H), 7.53 (d J=9.3, 2.6 Hz, 1H), 7.31-7.24 (m, 1H), 2.76 (s, 3H).

reactant | 5-fluoro-3-methyl-benzo[b]thiophene | 29.1 mmol, 4.83 g | FC1=CC2=C(SC=C2C)C=C1 | C9H7FS
reactant | n-butyllithium | C(CCC)[Li]
reactant | DMF | 43.7 mmol, 3.4 mL | CN(C)C=O | C3H7NO
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | (5-Fluoro-3-methyl-benzo[b]thiophen-2-ylmethyl)methylamine | 5.55 g, 97% | FC1=CC2=C(SC(=C2C)CNC)C=C1 | C11H12FNS
